US06559343B1
106 g (495 mmol) of methyl 2,2,4,4-tetramethyl-3,5-dioxohexanoate were added dropwise to a suspension of 19.8 g (495 mmol) of sodium hydroxide in 500 ml of dimethyl sulfoxide. The mixture was stirred at room temperature, treated with 500 ml of water and adjusted to pH 1 using hydrochloric acid, and the deposited precipitate was then filtered off with suction. After drying, 70 g (95%) of 2,2,4,4-tetramethyl-1,3,5-cyclohexanetrione were obtained.

reactant | methyl 2,2,4,4-tetramethyl-3,5-dioxohexanoate | 495 mmol, 106 g | CC(C(=O)OC)(C(C(C(C)=O)(C)C)=O)C | C11H18O4
reactant | sodium hydroxide | 495 mmol, 19.8 g | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
product | 2,2,4,4-tetramethyl-1,3,5-cyclohexanetrione | 70 g, 95% | CC1(C(CC(C(C1=O)(C)C)=O)=O)C | C10H14O3
